US05247050
Preparation of 1,1-bis[4-(4-acetylphenoxy)phenyl]-1-phenyl-2,2,2-trifluoroethane
A suspension of 15.2 grams (0.11 moles) anhydrous potassium carbonate in 370 milliliters of N2N'-dimethylacetamide is prepared in a 1 liter, 2-necked round bottom flask equipped with a reflux condensor and a nitrogen gas inlet. To the suspension is added 16.61 grams (0.05 moles) of 1,1-bis-(4-hydroxyphenyl)-1-phenyl-2,2,2-trifluoroethane) using a powder additional funnel against a counter current of nitrogen gas, as heat is gradually applied via a heating mantle. Next 18.26 milliliters (0.15 moles, 3 equivalents relative to the diphenol) of commercially obtained 4- fluoroacetophenone is added via a syringe to the heated solution. The solution is refluxed and stirred for 48 hours, at which time no diphenol is evident by thin layer chromatography (elution with 2:1 hexanes:ethyl acetate). The quantity of solvent is reduced to approximately 200 milliliters by distillation, whereupon the solution is cooled, and poured into approximately 500 milliliters of 1M HCL. The product precipitates as an off white granular solid. About 10 grams of the crude product is dissolved in dichloromethane and loaded onto a chromatography column using TLC grade silica. The product is obtained in pure form by eluting the column with a mixture of dichloromethane:hexanes in a 4:1 ratio.

reactant | potassium carbonate | 0.11 moles, 15.2 grams | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1-bis-(4-hydroxyphenyl)-1-phenyl-2,2,2-trifluoroethane | 0.05 moles, 16.61 grams | OC1=CC=C(C=C1)C(C(F)(F)F)(C1=CC=CC=C1)C1=CC=C(C=C1)O | C20H15F3O2
reactant | diphenol | C1=CC=C(C(=C1)C2=CC(=CC=C2)O)O | C12H10O2
reactant | 4- fluoroacetophenone | CC(=O)C1=CC=C(C=C1)F | C8H7FO
product | 1,1-bis[4-(4-acetylphenoxy)phenyl]-1-phenyl-2,2,2-trifluoroethane | C(C)(=O)C1=CC=C(OC2=CC=C(C=C2)C(C(F)(F)F)(C2=CC=CC=C2)C2=CC=C(C=C2)OC2=CC=C(C=C2)C(C)=O)C=C1 | C36H27F3O4
